US08008296B2
For example, 4-amino-benzoic acid methyl ester, is treated with a sulfonyl halide, in this case 4-methanesulfonyl benzenesulfonyl chloride, in a suitable solvent, such as a 1:1 mixture of dichloromethane and pyridine at ambient temperature for 2-24 hours to yield 4-(4-methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester.

reactant | 4-amino-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | 4-methanesulfonyl benzenesulfonyl chloride | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(4-methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)=O | C15H15NO6S2
